US08497368B2
1-(3-((6-Fluoro-1-methyl-1H-indazol-5-yl)methyl)imidazo[1,2-b]pyridazin-6-yl)propan-1-ol (80.3)
To a solution of 3-((6-fluoro-1-methyl-1H-indazol-5-yl)methyl)imidazo[1,2-b]pyridazine-6-carbaldehyde (52 mg, 0.168 mmol) in THF (4 mL) at 0° C., was added a solution of ethylmagnesium bromide in THF (1M, 0.336 mL) dropwise. After stirring for 16 h, the reaction mixture was quenched with NH4Cl(aq), extracted with EtOAc, dried over Na2SO4. Filtered through Celite and concentrated in vacuo to give a crude product (14 mg, 10%). LCMS (method B): [MH]+=340, tR=2.04 min.

reactant | 3-((6-fluoro-1-methyl-1H-indazol-5-yl)methyl)imidazo[1,2-b]pyridazine-6-carbaldehyde | 0.168 mmol, 52 mg | FC1=C(C=C2C=NN(C2=C1)C)CC1=CN=C2N1N=C(C=C2)C=O | C16H12FN5O
reactant | ethylmagnesium bromide | C(C)[Mg]Br
solvent | THF | 4 mL | C1CCOC1 | C4H8O
solvent | THF | 1M, 0.336 mL | C1CCOC1 | C4H8O
product | 1-(3-((6-Fluoro-1-methyl-1H-indazol-5-yl)methyl)imidazo[1,2-b]pyridazin-6-yl)propan-1-ol | 14 mg, 10% | FC1=C(C=C2C=NN(C2=C1)C)CC1=CN=C2N1N=C(C=C2)C(CC)O | C18H18FN5O
